US08283354B2
To a mixture of (S)-tetrahydrofuran-3-yl(R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-ylcarbamate (250 mg, 0.57 mmol) and CH2Cl2 (25 mL) was added a 2.0 M HCl solution in ether (0.285 mL, 0.57 mmol). After the addition of ether (40 mL), the reaction was stirred for 1 h. The resulting solid was filtered and dried to afford (S)-tetrahydrofuran-3-yl(R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-ylcarbamate hydrochloride. LC/MS: m/z 439.5 (M+H)+ at 2.25 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.18 (dd, J=8.1, 1.4 Hz, 1H), 8.00 (d, J=9.6 Hz, 1H), 7.90-7.94 (m, 1H), 7.78-7.83 (m, 1H), 7.45-7.49 (m, 1H), 7.00-7.03 (m, 2H), 5.10 (s, 1H), 4.09-4.25 (m, 4H), 3.90-3.92 (m, 1H), 3.62-3.75 (m, 4H), 2.22-2.27 (m, 1H), 2.03-2.14 (m, 2H), 1.83-1.91 (m, 1H).

reactant | (S)-tetrahydrofuran-3-yl(R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-ylcarbamate | 0.57 mmol, 250 mg | FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1C[C@@H](CC1)NC(O[C@@H]1COCC1)=O | C23H23FN4O4
reactant | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
reactant | HCl | 2.0 M | Cl | ClH
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | ether | 0.57 mmol, 0.285 mL | CCOCC | C4H10O
product | (S)-tetrahydrofuran-3-yl(R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-ylcarbamate hydrochloride | Cl.FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1C[C@@H](CC1)NC(O[C@@H]1COCC1)=O | InChI=1S/C23H23FN4O4.ClH/c24-14-5-6-19-18(11-14)22(27-21(26-19)17-3-1-2-4-20(17)29)28-9-7-15(12-28)25-23(30)32-16-8-10-31-13-16;/h1-6,11,15-16,29H,7-10,12-13H2,(H,25,30);1H/t15-,16+;/m1./s1
